US06727264B1
2-METHYL-N-{3-[1-({1-[3-(TRIFLUOROMETHYL)PHENYL]-1H-INDOL-5-YL}METHYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure C and Scheme Q1, with CuBr in place of Cu, using 1-iodo-3-(trifluoromethyl)benzene and N-{3-[1-(1H-indol-5-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide: 1H NMR (400 MHz, CDCl3) δ 7.80-6.94 (m, 12H), 6.69 (d, 1H, J=3.6 Hz), 3.36 (s, 2H), 3.10-3.00 (m, 2H), 2.58-2.42 (m, 2H), 2.16-2.02 (m, 2H), 1.85-1.75 (m, 4H), 1.25 (d, 6H, J=7.2 Hz); ESMS m/e: 520.2 (M+H)+.

reactant | 1-iodo-3-(trifluoromethyl)benzene | IC1=CC(=CC=C1)C(F)(F)F | C7H4F3I
reactant | N-{3-[1-(1H-indol-5-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide | N1C=CC2=CC(=CC=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C24H29N3O
product | 2-METHYL-N-{3-[1-({1-[3-(TRIFLUOROMETHYL)PHENYL]-1H-INDOL-5-YL}METHYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC=1C=C2C=CN(C2=CC1)C1=CC(=CC=C1)C(F)(F)F)C | C31H32F3N3O
